US07384967B2
N-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-ylmethyl}-2-methanesulfonyl-acetamide (103 mg, 84%) was prepared from 1-(4-aminomethyl-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (90 mg, 0.25 mmol) and methanesulfonyl acetic acid (55 mg, 0.4 mmol) following the general procedure T.

reactant | 1-(4-aminomethyl-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 0.25 mmol, 90 mg | NCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C18H22N4O2S
reactant | methanesulfonyl acetic acid | 0.4 mmol, 55 mg | CS(=O)(=O)CC(=O)O | C3H6O4S
product | N-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-ylmethyl}-2-methanesulfonyl-acetamide | 103 mg, 84% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CNC(CS(=O)(=O)C)=O)=O | C21H26N4O5S2
